US03981932
3-Chloro-4-cyclohexylacetophenone (0.25 moles) and phosphorus pentachloride (0.31 moles) are placed in a 3-necked flask equipped with a mechanical stirrer, a condenser connected to a nitrogen inlet, and a thermometer. The mixture is stirred at 33°-35°C for 3 days. The cooled reaction mixture is poured onto 800 g. of ice and extracted with 3 × 500 ml. of ether. The ether fraction is washed with 2 × 100 ml water 4 × 100 ml of 5% sodium hydroxide, 3 × 50 ml water, 2 × 50 ml of saturated saline and dried over sodium sulfate. The ether is removed to give the chlorinated intermediate. The intermediate is dissolved in snhydrous THF (200 ml) and is added dropwise to a freshly prepared solution of sodamide in liquid ammonia, using a dry-ice condenser. The reaction mixture is allowed to stir at room temperature overnight; then, it is poured into 50 ml of water and 500 ml of ether. The ether fraction is washed with 3 × 50 ml water and 50 ml of saturated saline and is dried over sodium sulfate. Removal of solvent gives a residue which is distilled to give 3-chloro-4-cyclohexylethynylbenzene.

reactant | 3-Chloro-4-cyclohexylacetophenone | 0.25 moles | ClC1CCCCC1CC(=O)C1=CC=CC=C1 | C14H17ClO
reactant | phosphorus pentachloride | 0.31 moles | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | sodamide | [NH2-].[Na+]
reactant | ammonia | N | H3N
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 3-chloro-4-cyclohexylethynylbenzene | ClC=1C=CC=CC1C#CC1CCCCC1 | C14H15Cl
